US09062044B2
Step B: (1S,6R)-Benzyl 3,8-diazabicyclo[4.2.0]octane-8-carboxylate.
To (1S,6R)-8-benzyl 3-tert-butyl 3,8-diazabicyclo[4.2.0]octane-3,8-dicarboxylate (300 mg, 0.9 mmol) in CH2Cl2 was added TFA (1:1). After 2 h, the reaction was concentrated and used without further purification.

reactant | (1S,6R)-8-benzyl 3-tert-butyl 3,8-diazabicyclo[4.2.0]octane-3,8-dicarboxylate | 0.9 mmol, 300 mg | [C@H]12CN(CC[C@@H]2CN1C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H26N2O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (1S,6R)-Benzyl 3,8-diazabicyclo[4.2.0]octane-8-carboxylate | [C@H]12CNCC[C@@H]2CN1C(=O)OCC1=CC=CC=C1 | C14H18N2O2
